US08258119B2
3-Methylthiopheno[2,3-d]1,2,3-triazin-4-one:
To a solution of 3H-thiopheno[2,3-d]1,2,3-triazin-4-one (80 mg, 0.522 mmol) in acetone (50 mL) was added sequentially potassium carbonate (144 mg, 1.04 mmol), iodomethane (0.04 mL, 0.627 mmol) and potassium iodide (catalytic) at rt and the mixture was stirred at rt for 3 h. The solution was filtered and the solids were washed with acetone. Acetone was evaporated under reduced pressure, diluted with ice cold water and stirred for 10 min. The solution was extracted with chloroform (4×75 mL) and the combined CHCl3 layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent. The residue was chromatographed over silica gel column using hexane-ethyl acetate (90:10) as eluents to give the product as an off-white solid (50 mg, 57%), mp 104-108° C. 1H NMR (400 MHz, DMSO-d6): δ 8.17 (1H, d, J=5.6 Hz), 7.64 (1H, d, J=5.6 Hz), 3.95 (3H, s); 13C NMR (100 MHz, CDCl3): δ 159.4, 153.9, 130.7, 125.6, 121.7, 37.3.

reactant | 3H-thiopheno[2,3-d]1,2,3-triazin-4-one | 0.522 mmol, 80 mg | N1=NNC(C2=C1SC=C2)=O | C5H3N3OS
reactant | potassium carbonate | 1.04 mmol, 144 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.627 mmol, 0.04 mL | IC | CH3I
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 3-Methylthiopheno[2,3-d]1,2,3-triazin-4-one | 50 mg, 57% | CN1N=NC2=C(C1=O)C=CS2 | C6H5N3OS
